US07977358B2
1-{3-[(E)-2-(4-Chloro-phenyl)-vinyl]-phenyl}-3,5-dimethyl-1H-pyrazole-4-carboxylic acid
In analogy to the procedure described in Example 14C], but with 2.8 eq of K3PO4, 1-(3-bromo-phenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic acid and trans-2-(4-chlorophenyl)vinylboronic acid gave after suspending in CH2Cl2 and filtration the title compound in 63% yield as light yellow solid. MS: 352.2 (M+, 1 Cl).

reactant | K3PO4 | 2.8 eq | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1-(3-bromo-phenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic acid | BrC=1C=C(C=CC1)N1N=C(C(=C1C)C(=O)O)C | C12H11BrN2O2
reactant | trans-2-(4-chlorophenyl)vinylboronic acid | ClC1=CC=C(C=C1)/C=C/B(O)O | C8H8BClO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-{3-[(E)-2-(4-Chloro-phenyl)-vinyl]-phenyl}-3,5-dimethyl-1H-pyrazole-4-carboxylic acid | 63% yield | ClC1=CC=C(C=C1)/C=C/C=1C=C(C=CC1)N1N=C(C(=C1C)C(=O)O)C | C20H17ClN2O2
